US05461153
5. Preparation of 8-Fluoro-5-methoxy-1,2,4-triazolo[4,3-C]pyrimidine-3(2H)-thione
5-Fluoro-4-hydrazino-2-methoxypyrimidine (15.81 g, 0.100 mol), 47 g of methanol, 10.2 g (0.100 mol) of triethylamine, and 11.4 g (0.15 mol) of carbon disulfide were combined in a 250 mL flask under nitrogen at ambient temperature with stirring to obtain a yellow, heterogeneous mixture. The mixture was cooled to 15° C. with an ice bath. Hydrogen peroxide (12.5 g of 30 percent aqueous, 0.11 mol) was then added by means of a syringe pump, the syringe of which was inserted into the flask through a septum. The addition was made over a 1-hour period with stirring and cooling to maintain the temperature at about 15° C. The mixture was allowed to react and warm for 1 hour and the resulting heterogeneous orange mixture was vacuum filtered to remove the solid sulfur. The filtrate was cooled in an ice bath and acidified with 17.6 mL (0.11 mol) of 6.25N hydrochloric acid diluted with 125 mL of water. The resulting precipitate was recovered by vacuum filtration and dried under reduced pressure to obtain 18.81 g (94 percent of theory) of the title compound as an off-white solid melting at 166° C. with decomposition.

reactant | 5-Fluoro-4-hydrazino-2-methoxypyrimidine | 0.100 mol, 15.81 g | FC=1C(=NC(=NC1)OC)NN | C5H7FN4O
reactant | triethylamine | 0.100 mol, 10.2 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.15 mol, 11.4 g | C(=S)=S | CS2
reactant | Hydrogen peroxide | 0.11 mol, 12.5 g | OO | H2O2
reactant | hydrochloric acid | 0.11 mol, 6.25N, 17.6 mL | Cl | ClH
solvent | water | 125 mL | O | H2O
solvent | methanol | 47 g | CO | CH4O
product | 8-Fluoro-5-methoxy-1,2,4-triazolo[4,3-C]pyrimidine-3(2H)-thione | FC=1C=2N(C(=NC1)OC)C(NN2)=S | C6H5FN4OS
